US05753664
2-Tert-butyl-5-dimethylamino-3(2H)-pyridazinone
In methanol (40 ml) was dissolved 2-t-butyl-4-chloro-5-dimethylamino-3(2H)-pyridazinone (4.3 g) followed by addition of 10% palladium-on-carbon (water content 50%) (430 mg), and the mixture was stirred under hydrogen at room temperature for 48 hours. The catalyst was then filtered off and the filtrate was concentrated. To the residue was added saturated aqueous NaHCO3 solution and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous NaCl solution, dried over anhydrous magnesium sulfate, and concentrated to dryness. The residue was washed with n-hexane and dried. White powder, 3.4 g. 1H-NMR (CDC13) 6: 1.63(9H,s), 2.98(6H,s), 5.65(1H,d,J=3.OHz), 7.55(1H,d,J=3.0Hz).

reactant | 2-t-butyl-4-chloro-5-dimethylamino-3(2H)-pyridazinone | 4.3 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)N(C)C | C10H16ClN3O
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-on-carbon | 430 mg | [Pd] | Pd
product | 2-Tert-butyl-5-dimethylamino-3(2H)-pyridazinone | C(C)(C)(C)N1N=CC(=CC1=O)N(C)C | C10H17N3O
